US05863947
A solution of 4-cyano-2-trifluoromethylsulphonyl-benzaldehyde (1.8 g, 6.45 mmol), tris(dibenzyliden-acetone)dipalladium(o) (0.18 g, 0.2 mmol) and triphenylarsine (0.49 g, 1.6 mmol) in dry N-methylpyrrolidinone (20 ml) was reacted with neat tetra-n-butyltin at a temperature of 100° C. for 18 hours and worked up following the procedure described in Example 17 (i). The crude oil was chromatographed on flash silica eluting with hexane-dichloromethane (7:3, 1:1) to give 2-butyl-4-cyanobenzaldehyde as a colourless oil.

reactant | 4-cyano-2-trifluoromethylsulphonyl-benzaldehyde | 6.45 mmol, 1.8 g | C(#N)C1=CC(=C(C=O)C=C1)S(=O)(=O)C(F)(F)F | C9H4F3NO3S
reactant | triphenylarsine | 1.6 mmol, 0.49 g | C1(=CC=CC=C1)[As](C1=CC=CC=C1)C1=CC=CC=C1 | C18H15As
reactant | tetra-n-butyltin | C(CCC)[Sn](CCCC)(CCCC)CCCC
solvent | N-methylpyrrolidinone | 20 ml | CN1C(CCC1)=O | C5H9NO
product | 2-butyl-4-cyanobenzaldehyde | C(CCC)C1=C(C=O)C=CC(=C1)C#N | C12H13NO
